US06749771B1
Jones oxidant (CrO3/H2SO4/H2O) (48 ml) was added to a ice-cooled solution of 2,5-di-[4-(6-acryloyloxyhexyloxy)phenylcarbonyloxy]benzaldehyde (8.24 g, 12 mmol) in acetone (300 ml) in a dropwise fashion over a period of 30 min. The reaction mixture was stirred overnight at room temperature. The resulting green-orange mixture was filtered off to leave a green precipitate that was washed with 600 ml of ether. The combined organic solutions were washed with water until the orange coloration disappeared (6×250 ml). The colourless organic solution obtained was washed with saturated NaCl solution (2×300 ml), dried over MgSO4 and filtered. Removal of the solvent gave pure 2,5-di-[4-(6-acryloyloxyhexyloxy)phenylcarbonyloxy]benzoic acid as a white crystalline material. Yield 8.5 g.

reactant | 2,5-di-[4-(6-acryloyloxyhexyloxy)phenylcarbonyloxy]benzaldehyde | 12 mmol, 8.24 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)C(=O)OC1=C(C=O)C=C(C=C1)OC(=O)C1=CC=C(C=C1)OCCCCCCOC(C=C)=O | C39H42O11
reactant | acetone | 300 ml | CC(=O)C | C3H6O
product | 2,5-di-[4-(6-acryloyloxyhexyloxy)phenylcarbonyloxy]benzoic acid | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)C(=O)OC1=C(C(=O)O)C=C(C=C1)OC(=O)C1=CC=C(C=C1)OCCCCCCOC(C=C)=O | C39H42O12
